US04794110
1-[(2-Fluorophenyl)phenylmethyl]pyrrol-2-yl dimethylaminomethyl ketone hydrochloride
To a solution of methanol saturated with dimethylamine was added 1-[(2-fluorophenyl)phenylmethyl]pyrrol-2-yl chloromethyl ketone (20.39 g in 500 ml of MeOH). This was heated at an oil bath temperature of 85° C. and stirred for 2 hours.

reactant | dimethylamine | CNC | C2H7N
reactant | 1-[(2-fluorophenyl)phenylmethyl]pyrrol-2-yl chloromethyl ketone | 500 ml, 20.39 g | ClCC(=O)C=1N(C=CC1)C(C1=CC=CC=C1)C1=C(C=CC=C1)F | C19H15ClFNO
solvent | methanol | CO | CH4O
product | 1-[(2-Fluorophenyl)phenylmethyl]pyrrol-2-yl dimethylaminomethyl ketone hydrochloride | Cl.CN(C)CC(=O)C=1N(C=CC1)C(C1=CC=CC=C1)C1=C(C=CC=C1)F | InChI=1S/C21H21FN2O.ClH/c1-23(2)15-20(25)19-13-8-14-24(19)21(16-9-4-3-5-10-16)17-11-6-7-12-18(17)22;/h3-14,21H,15H2,1-2H3;1H
